US04584290
A mixture of benzhydryl 7-tert-butoxycarbonylamino-3-[2-(2-pyridyl)thiovinyl]-3-cephem-4-carboxylate (trans isomer) (5.0 g) N,N-dimethylformamide (25 ml) and methyl iodide (5 ml) was allowed to stand for 9 days at ambient temperature. The reaction mixture was poured into diisopropyl ether and the resultant oily residue was triturated with ethyl acetate and collected by filtration to give benzhydryl 7-tert-butoxycarbonylamino-3-[2-(1-methyl-2-pyridinio)thiovinyl]-3-cephem-4-carboxylate iodide (trans isomer) (5.2 g).

reactant | benzhydryl 7-tert-butoxycarbonylamino-3-[2-(2-pyridyl)thiovinyl]-3-cephem-4-carboxylate | 5.0 g | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)C=CSC2=NC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H31N3O5S2
reactant | methyl iodide | 5 ml | CI | CH3I
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-tert-butoxycarbonylamino-3-[2-(1-methyl-2-pyridinio)thiovinyl]-3-cephem-4-carboxylate iodide | 5.2 g | [I-].C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)C=CS[CH2+]2N(C=CC=C2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C33H36N3O5S2.HI/c1-33(2,3)41-32(39)34-26-29(37)36-27(24(21-43-30(26)36)18-20-42-25-17-11-12-19-35(25)4)31(38)40-28(22-13-7-5-8-14-22)23-15-9-6-10-16-23;/h5-20,26,28,30H,21,25H2,1-4H3,(H,34,39);1H/q+1;/p-1/t26?,30-;/m1./s1
